US05077409
3-Methyl-2-[[3-[acetyl[2-[4-(tetradecyloxy)phenyl]ethyl]amino1phenyl]methyl]thiazolium iodide
A mixture of 300 mg of N-[2-[4-(tetradecyloxy)phenyl]ethyl]-N-[3-(2-thiazolylmethyl)phenyl]acetamide and 1.4 g of methyl iodide in 5 ml of toluene is heated at 140° C. in a closed vessel for 4.5 hours then cooled. Ether is added, the solid collected by centrifugation and then washed several times with ether. The solid is vacuum dried to give 235 mg of the desired product as a tan solid, m.p. 130°-134° C.

reactant | N-[2-[4-(tetradecyloxy)phenyl]ethyl]-N-[3-(2-thiazolylmethyl)phenyl]acetamide | 300 mg | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CCN(C(C)=O)C1=CC(=CC=C1)CC=1SC=CN1 | C34H48N2O2S
reactant | methyl iodide | 1.4 g | CI | CH3I
reactant | Ether | CCOCC | C4H10O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methyl-2-[[3-[acetyl[2-[4-(tetradecyloxy)phenyl]ethyl]amino1phenyl]methyl]thiazolium iodide | 235 mg | [I-].C[N+]1=C(SC=C1)CC1=CC(=CC=C1)N(CCC1=CC=C(C=C1)OCCCCCCCCCCCCCC)C(C)=O | InChI=1S/C35H51N2O2S.HI/c1-4-5-6-7-8-9-10-11-12-13-14-15-26-39-34-21-19-31(20-22-34)23-24-37(30(2)38)33-18-16-17-32(28-33)29-35-36(3)25-27-40-35;/h16-22,25,27-28H,4-15,23-24,26,29H2,1-3H3;1H/q+1;/p-1
